US06613790B2
Preparation of N-(2-hydroxyethyl)-4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide
To a solution of methyl N-(tert-butoxycarbonyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate (1.18 g, 2.13 mmol) in 50 ml anhydrous methanol (50 mL) was added NaBH4 (0.8 g, 21.1 mmol) and the mixture was stirred at room temperature. At 30 minutes, additional MeOH (50 mL) was added and then NaBH4 (3.6 g, 95.1 mmol) was added in portions over 5.5 hours and the mixture was stirred at room temperature for an additional 18 hours. The solvent was removed under vacuum and ethyl acetate (100 mL) was added. The mixture was then poured into sat. NaHCO3 (200 mL) and the layers were separated. The aqueous layer was then extracted with ethyl acetate (100 mL). The organic layers were combined, washed with sat. NaHCO3 (100 mL), dried over MgSO4, filtered and concentrated under vacuum. The resulting pale yellow glass was dissolved in TFA (100 mL) and the mixture was allowed to stand at room temperature for 2 hours. The TFA was removed under vacuum, and remaining traces of TFA were removed by addition and removal under vacuum of CH2Cl2 (several portions) to give a yellow oil. The crude product was purified by flash chromatography (silica gel, 1:1 hexanes:ethyl acetate) to afford 0.365 g (40% yield) of the product as a white powder: mp, 57.8° C.; 1H NMR (dmso-d6/300 MHz) δ 7.86-7.83 (m, 2H), 7.76 (exchangeable with D2O, t, 1H), J=5.9 Hz), 7.56-7.53 (m, 2H), 7.22-7.17 (m, 5H), 4.70 (exchangeable with D2O, t, 1H, J=5.6 Hz), 3.37-3.32 (m, 2H), 2.84-2.79 (m, 2H), 2.30 (s 3H); HRMS (M+H)+ calcd. for C19H19F3N3O3S: 426.1099; found 426.1071.

reactant | methyl N-(tert-butoxycarbonyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate | 2.13 mmol, 1.18 g | C(C)(C)(C)OC(=O)N(CC(=O)OC)S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F | C25H26F3N3O6S
reactant | NaBH4 | 21.1 mmol, 0.8 g | [BH4-].[Na+]
reactant | NaBH4 | 95.1 mmol, 3.6 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | N-(2-hydroxyethyl)-4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 0.365 g, 40% yield | OCCNS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F | C19H18F3N3O3S
